US07863291B2
To N-(2-(1H-imidazole-1-carbothioamido)benzo[d]thiazol-6-yl)acetamide (300 mg, 0.95 mmol) in N,N-dimethylformamide (10 mL) was added (S)-3-(aminomethyl)quinuclidin-3-ol, 2HCl (238 mg, 1 mmol) and triethylamine (0.39 mL, 2.84 mmol). The reaction was heated to 80° C. for 3 hours. N,N′-diisopropylcarbodiimide (0.59 mL, 3.78 mmol) was then added to the reaction mixture. The mixture was heated at 80° C. for another 2 hours. The reaction was cooled, then chloroform and water were added to the mixture. The organic layer concentrated in vacuo to yield crude product. The crude material was purified via flash chromatography (2-20% [10% ammonium hydroxide/methanol-chloroform). The product fractions were then triturated with ether to yield (R)—N-(2-(4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octane]-2-ylamino)benzo[d]thiazol-6-yl)acetamide (144.5 mg, 0.39 mmol, 41.2% yield) as a white solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 9.98 (1 H, s), 8.93 (1 H, br. s.), 8.12 (1 H, d, J=1.83 Hz), 7.52 (1 H, d, J=8.42 Hz), 7.38 (1 H, dd, J=8.60, 2.01 Hz), 3.88 (1 H, d, J=9.88 Hz), 3.62 (1 H, d, J=9.88 Hz), 3.02 (2 H, s), 2.74-2.85 (2 H, m), 2.66 (2 H, t, J=7.68 Hz), 2.05 (4 H, s), 1.91 (1 H, br. s.), 1.41-1.64 (3 H, m). MS (LC/MS) R.T.=1.55; [M+H]+=372.2.

reactant | N-(2-(1H-imidazole-1-carbothioamido)benzo[d]thiazol-6-yl)acetamide | 0.95 mmol, 300 mg | N1(C=NC=C1)C(NC=1SC2=C(N1)C=CC(=C2)NC(C)=O)=S | C13H11N5OS2
reactant | triethylamine | 2.84 mmol, 0.39 mL | C(C)N(CC)CC | C6H15N
reactant | N,N′-diisopropylcarbodiimide | 3.78 mmol, 0.59 mL | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (R)—N-(2-(4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octane]-2-ylamino)benzo[d]thiazol-6-yl)acetamide | 0.39 mmol, 144.5 mg, 41.2% yield | N12C[C@]3(C(CC1)CC2)CN=C(O3)NC=3SC2=C(N3)C=CC(=C2)NC(C)=O | C18H21N5O2S
